US06949542B2
(2-Amino-5-propoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-nitro-5-propoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example A28) (6.46 g, 17.7 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a white solid (0.93 g, 16%).

reactant | (2-nitro-5-propoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 17.7 mmol, 6.46 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCCC)C(F)(F)F)[N+](=O)[O-])=O | C15H19F3N2O5
catalyst | Pd/C | [Pd] | Pd
product | (2-Amino-5-propoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCCC)C(F)(F)F)N)=O | C15H21F3N2O3
